US05234935
Methyl ethyl 1-cyclopropyl-2,6-dimethyl-4-(4-trifluoromethylphenyl)-1,4-dihydro-pyridine-3,5-dicarboxylate
3.6 g (0.039 mol) of cyclopropylamine hydrochloride are added to a solution of 3.9 g (0.03 mol) of ethyl acetoacetate and 8.16 g (0.03 mol) of methyl 2-(4-trifluoromethylbenzylidene)acetoacetate in 50 ml of pyridine and the mixture is heated under reflux for 5 hours. The reaction product is concentrated in vacuo, the residue is taken up in methylene chloride and water, the aqueous phase is separated off, and the methylene chloride solution is dried over sodium sulphate and evaporated. The residue is purified by chromatography on silica gel using methylene chloride as the solvent. After dissolving and crystallizing the product from n-heptane, 2.2 g (17.3% of theory) are obtained. Melting point: 110° C.

reactant | cyclopropylamine hydrochloride | 0.039 mol, 3.6 g | Cl.C1(CC1)N
reactant | ethyl acetoacetate | 0.03 mol, 3.9 g | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | methyl 2-(4-trifluoromethylbenzylidene)acetoacetate | 0.03 mol, 8.16 g | FC(C1=CC=C(C=C(C(=O)OC)C(=O)C)C=C1)(F)F | C13H11F3O3
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | Methyl ethyl 1-cyclopropyl-2,6-dimethyl-4-(4-trifluoromethylphenyl)-1,4-dihydro-pyridine-3,5-dicarboxylate | C1(CC1)N1C(=C(C(C(=C1C)C(=O)OCC)C1=CC=C(C=C1)C(F)(F)F)C(=O)OC)C | C22H24F3NO4
